US05100897
Step 1: 2-(2-Chlorophenyl)-3-oxobutyronitrile
The procedure of P. L. Julian et al (Org. Syn, C. V. II, p, 487) was used. To 25 mL of anhydrous ethanol was added 2.0 g or sodium metal. The mixture was heated to 100° C. with a heating mantle to effect complete reaction. To the warm solution was added 10.0 g 2-chlorophenylacetonitrile followed by 9.7 mL dry ethyl acetate. After one hour, the mixture was cooled to -10° C. and was filtered through a medium fritted funnel. The white precipitate was washed twice with ether and was combined with the first batch. The solid material was dissolved in 75 mL water. To this was added 5 mL acetic acid. The mixture was then extracted three times with ether. The combined organic material was dried over sodium sulfate, stripped of solvent in vacuo, and was restripped from toluene to give the title compound sufficiently pure for the the next reaction. Rf 0.14 in 20% ethyl acetate/hexane.

reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | sodium | [Na] | Na
reactant | 2-chlorophenylacetonitrile | 10.0 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
solvent | ethyl acetate | 9.7 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Chlorophenyl)-3-oxobutyronitrile | ClC1=C(C=CC=C1)C(C#N)C(C)=O | C10H8ClNO
